US08216973B2
b) Preparation of 5-bromo-2-({[5-(difluoromethoxy)-1-methyl-3-(trifluoromethyl)-1H-pyrazol-4-yl]methyl}sulfanyl)-1,3-oxazole
2-({[5-(Difluoromethoxy)-1-methyl-3-(trifluoromethyl)-1H-pyrazol-4-yl]methyl}sulfanyl)-1,3-oxazole (1.24 g, 4 mmol) is initially charged in 20 ml of dimethylformamide. N-Bromosuccinimide (0.892 g, 5 mmol) is then added a little at a time with stirring. The mixture is stirred at 40° C. for a further 6 hours. For work-up, the reaction mixture is added to water and extracted twice with dichloromethane, and the extracts are then washed with water and finally with saturated NaCl solution. The combined organic phases are dried over magnesium sulfate, filtered off and concentrated. The crude product is purified chromatographically (heptane:ethyl acetate, gradient 10:0 to 7:3). This gives 0.70 g of product (43.2% of theory).

reactant | 2-({[5-(Difluoromethoxy)-1-methyl-3-(trifluoromethyl)-1H-pyrazol-4-yl]methyl}sulfanyl)-1,3-oxazole | 4 mmol, 1.24 g | FC(OC1=C(C(=NN1C)C(F)(F)F)CSC=1OC=CN1)F | C10H8F5N3O2S
reactant | N-Bromosuccinimide | 5 mmol, 0.892 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | water | O | H2O
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 5-bromo-2-({[5-(difluoromethoxy)-1-methyl-3-(trifluoromethyl)-1H-pyrazol-4-yl]methyl}sulfanyl)-1,3-oxazole | BrC1=CN=C(O1)SCC=1C(=NN(C1OC(F)F)C)C(F)(F)F | C10H7BrF5N3O2S
